US04667032
1,4-Bis(1-propylamino)-3H-phenothiazin-3-one-5,5-dioxide
To a solution of 3-hydroxy-10H-phenothiazine-5,5-dioxide (989 mg) in THF (50 ml) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (1.82 g). The resulting green mixture was stirred at room temperature for 3 minutes, then there was added n-propyl amine (2.36 g). The mixture was stirred for 20 minutes and then filtered. The filtrate was evaporated to dryness and the residue chromatographed on a column of silica gel eluting with a 1:20 mixture of ethyl acetate and dichloromethane to afford the title compound as a purple solid (850 mg). Crystallization from methanol afforded purple crystals (606 mg), m.p. 174°-176° C.

reactant | 3-hydroxy-10H-phenothiazine-5,5-dioxide | 989 mg | OC=1C=CC=2NC3=CC=CC=C3S(C2C1)(=O)=O | C12H9NO3S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 1.82 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | n-propyl amine | 2.36 g | C(CC)N | C3H9N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1,4-Bis(1-propylamino)-3H-phenothiazin-3-one-5,5-dioxide | 850 mg | C(CC)NC1=CC(C(=C2S(C3=CC=CC=C3N=C12)(=O)=O)NCCC)=O | C18H21N3O3S
